US08232390B2
Step 2: Methyl 2-[2-({[tert-butyl(dimethyl)silyl]oxy}methyl)phenyl]-3-cyclohexyl-1H-indole-6-carboxylate
A solution (0.039 M) of methyl 3-cyclohexyl-2-[2-(hydroxymethyl)phenyl]-1H-indole-6-carboxylate was treated with 2,6-lutidine (2 eq) and then with tert-butyl(dimethyl)silyl trifluoromethanesulfonate (1.2 eq). The solution was stirred for 15 min. Removal of the volatiles in vacuo gave a residue that was diluted with EtOAc, washed with 1N HCl, saturated aqueous NaHCO3, brine, dried and concentrated in vacuo to afford the title compound (90%) as a solid. MS (ES+) m/z 478 (M+H+).

reactant | methyl 3-cyclohexyl-2-[2-(hydroxymethyl)phenyl]-1H-indole-6-carboxylate | 0.039 M | C1(CCCCC1)C1=C(NC2=CC(=CC=C12)C(=O)OC)C1=C(C=CC=C1)CO | C23H25NO3
reactant | 2,6-lutidine | 2 eq | N1=C(C=CC=C1C)C | C7H9N
reactant | tert-butyl(dimethyl)silyl trifluoromethanesulfonate | 1.2 eq | FC(S(=O)(=O)O[Si](C)(C)C(C)(C)C)(F)F | C7H15F3O3SSi
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl 2-[2-({[tert-butyl(dimethyl)silyl]oxy}methyl)phenyl]-3-cyclohexyl-1H-indole-6-carboxylate | 90% | [Si](C)(C)(C(C)(C)C)OCC1=C(C=CC=C1)C=1NC2=CC(=CC=C2C1C1CCCCC1)C(=O)OC | C29H39NO3Si
